US09216968B2
2-{[(tert-Butoxycarbonyl)(methyl)amino]methyl}-N-(3-chloro-2-methylphenyl)-6-({[2-(trifluoromethyl)phenyl]carbon yl}amino)-1H-benzimidazole-4-carboxamide (9 mg) was obtained according to the procedure as described in Step 7 of Example 11, using 2-{[(tert-butoxycarbonyl)(methyl)amino]methyl}-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxylic acid instead of 2-(methoxymethyl)-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxylic acid. This was dissolved in methylene chloride (1 mL). To the residue was added TFA (0.5 mL) under ice-cooling, and it was stirred for 0.5 hour. To the reaction mixture were added ice and then saturated aqueous sodium bicarbonate, and it was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified on column chromatography to obtain N-(3-chloro-2-methylphenyl)-2-[(methylamino)methyl]-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxamide (5 mg) as slightly yellow powder. This was dissolved in MeOH (0.5 mL), and treated with 1M hydrochloric acid (2 Eq), and concentrated to obtain the titled compound (5 mg) as slightly yellow powder.

reactant | 2-{[(tert-butoxycarbonyl)(methyl)amino]methyl}-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxylic acid | C(C)(C)(C)OC(=O)N(C)CC1=NC2=C(N1)C=C(C=C2C(=O)O)NC(=O)C2=C(C=CC=C2)C(F)(F)F | C23H23F3N4O5
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | N-(3-chloro-2-methylphenyl)-2-[(methylamino)methyl]-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxamide | 5 mg | ClC=1C(=C(C=CC1)NC(=O)C1=CC(=CC=2NC(=NC21)CNC)NC(=O)C2=C(C=CC=C2)C(F)(F)F)C | C25H21ClF3N5O2
